### PR TITLE
[Merged by Bors] - feat(Algebra): `Hom` commute with flat base change

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
In this PR, we proved `Hom_S (M \tensor S, N \tensor S)` is base change of `Hom_R (M, N)` with respect to `LinearMap.baseChangeHom`.

Co-authored-by: Wang Jingting <wangjt2020@163.com>

---

- [x] depends on: #31218
- [x] depends on: #31219
- [x] depends on: #31696

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/FinitePresentation.lean [hunk 1]
```diff
@@ -92,6 +95,16 @@ theorem Module.FinitePresentation.exists_fin [fp : Module.FinitePresentation R M
   · simpa [range_linearCombination] using hι₁
   · simpa [LinearMap.ker_comp, Submodule.comap_equiv_eq_map_symm] using hι₂.map _
 
+/-- An alternative version of `Module.FinitePresentation.exists_fin` that provides a right exact
+sequence. -/
+theorem Module.FinitePresentation.exists_fin' [fp : Module.FinitePresentation R M] :
+    ∃ (n m : ℕ) (f : (Fin n → R) →ₗ[R] M) (g : (Fin m → R) →ₗ[R] (Fin n → R)),
+    Function.Surjective f ∧ Function.Exact g f := by
```
Comment (themathqueen) [inline Mathlib/Algebra/Module/FinitePresentation.lean]:
```suggestion
      Function.Surjective f ∧ Function.Exact g f := by
```

File: Mathlib/Algebra/Module/FinitePresentation.lean [hunk 2]
```diff
@@ -92,6 +95,16 @@ theorem Module.FinitePresentation.exists_fin [fp : Module.FinitePresentation R M
   · simpa [range_linearCombination] using hι₁
   · simpa [LinearMap.ker_comp, Submodule.comap_equiv_eq_map_symm] using hι₂.map _
 
+/-- An alternative version of `Module.FinitePresentation.exists_fin` that provides a right exact
+sequence. -/
+theorem Module.FinitePresentation.exists_fin' [fp : Module.FinitePresentation R M] :
```
Comment (themathqueen) [inline Mathlib/Algebra/Module/FinitePresentation.lean:95]: Can you split this into its own PR? Should be easy enough to merge a lot quicker than the rest

Comment (Thmoas-Guan) [reply Mathlib/Algebra/Module/FinitePresentation.lean:95]: Since I doesn't use this elsewhere, sorry that I didn't see the point  why this acclerates the process. Is there someone else needing this?

Comment (themathqueen) [reply Mathlib/Algebra/Module/FinitePresentation.lean:95]: There's no need. It was just a thought since it's an easy and small lemma 🤷.

Comment (ocfnash) [reply Mathlib/Algebra/Module/FinitePresentation.lean:95]: @Thmoas-Guan In future please give more consideration to suggestions like this. Review bandwidth is absolutely saturated and reviewers work hard all the time. Even if you do not see the point, please think very carefully before dismissing a suggestion.

In this case, the gain from splitting out this lemma would have been small but it would probably have been worth having. For example, a question I am faced with when reviewing this PR is what to do about the 7% jump in imports and if this simple lemma were already merged it would be clear to me at _a glance_ that it is only the final two lemmas which need the new imports.

File: Mathlib/Algebra/Module/FinitePresentation.lean [hunk 3]
```diff
@@ -666,4 +679,39 @@ lemma Module.FinitePresentation.linearEquivMapExtendScalars_symm_apply
     (LocalizedModule.mkLinearMap S (M →ₗ[R] N)) f :=
   IsLocalizedModule.linearEquiv_symm_apply S _ _ f
 
+open TensorProduct LinearMap
+
+variable (N) in
+lemma Module.isBaseChange_map_of_finite_free (S : Type*) [CommRing S] [Algebra R S] (n : ℕ) :
+    IsBaseChange S (LinearMap.baseChangeHom R S (Fin n → R) N) := by
```
Comment (ocfnash) [inline Mathlib/Algebra/Module/FinitePresentation.lean]: How about we generalise slightly to:
```suggestion
lemma Module.isBaseChange_map_of_finite_free (S ι : Type*) [Finite ι] [CommRing S] [Algebra R S] :
    IsBaseChange S (LinearMap.baseChangeHom R S (ι → R) N) := by
  classical
  have : Fintype ι := Fintype.ofFinite ι
```

File: Mathlib/Algebra/Module/FinitePresentation.lean [hunk 4]
```diff
@@ -92,6 +95,16 @@ theorem Module.FinitePresentation.exists_fin [fp : Module.FinitePresentation R M
...
   · simpa [LinearMap.ker_comp, Submodule.comap_equiv_eq_map_symm] using hι₂.map _
 
+/-- An alternative version of `Module.FinitePresentation.exists_fin` that provides a right exact
+sequence. -/
+theorem Module.FinitePresentation.exists_fin' [fp : Module.FinitePresentation R M] :
+    ∃ (n m : ℕ) (f : (Fin n → R) →ₗ[R] M) (g : (Fin m → R) →ₗ[R] (Fin n → R)),
+      Function.Surjective f ∧ Function.Exact g f := by
+  obtain ⟨n, K, e, h⟩ := exists_fin R M
+  obtain ⟨m, g', hg'⟩ := K.fg_iff_exists_fin_linearMap.mp h
+  refine ⟨n, m, e.symm ∘ₗ K.mkQ, g', by simpa using K.mkQ_surjective,
```
Comment (ocfnash) [inline Mathlib/Algebra/Module/FinitePresentation.lean]:
```suggestion
  exact ⟨n, m, e.symm ∘ₗ K.mkQ, g', by simpa using K.mkQ_surjective,
```

**Review by ocfnash — APPROVED** [review]
Thanks!

I'm a bit uneasy about the import bump but ultimately I think we just need to absorb them on this occasion.

Please apply my suggestions and then free free to merge.

bors d+

File: Mathlib/Algebra/Module/FinitePresentation.lean (hunk 2 above)
Comment (Thmoas-Guan) [reply Mathlib/Algebra/Module/FinitePresentation.lean:95]: Thanks, I get the point of these kind of splitting now. More generally, I'll be more careful, thanks.
